US08912173B2
Synthesis of 1-Chloromethyl-5,5-dimethyl-imidazolidine-2,4-dione for Example 23
0.69 ml Thionyl chloride was added to a solution of 500 mg 1-Hydroxymethyl-5,5-dimethyl-imidazolidine-2,4-dione in 5 ml DCM at 0° C. for 30 minutes, then left to stir at 25° C. for 16 hours. The mixture was evaporated to dryness and used crude in the synthesis of example 23.

reactant | Thionyl chloride | 0.69 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-Hydroxymethyl-5,5-dimethyl-imidazolidine-2,4-dione | 500 mg | OCN1C(NC(C1(C)C)=O)=O | C6H10N2O3
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 1-Chloromethyl-5,5-dimethyl-imidazolidine-2,4-dione | ClCN1C(NC(C1(C)C)=O)=O | C6H9ClN2O2
